US05866576
This example illustrates a synthesis of 1-(4-(S)-Methyl-7,8-oxido-8-methylnonyl)-3,7-dimethylxanthine (inventive compound no. 2548S). To a suspension of magnesium (2.74 g, 140 mmol) and a crystal of iodine in tetrahydrofuran (15 mL) was added (S)-citronellyl bromide (5.0 g, 22.8 mmol) in tetrahydrofuran (10 mL) over 30 minutes and the reaction stirred for a further 30 minutes after the addition was complete. The solution was added via a canula over 5 minutes to a suspension of paraformaldehyde (1.80 g, 60.0 mmol) in tetrahydrofuran (15 mL) and stirred at 25° C. for 6 hours. Saturated ammonium chloride (40 mL) was added and extracted with diethyl ether (2×30 mL). The combined organic extracts were dried (magnesium sulfate) and evaporated to yield 3.25 g (84% yield) 4-(S)-methyl-8-methylnon-7-enyl alcohol as a clear liquid.

reactant | magnesium | 140 mmol, 2.74 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | (S)-citronellyl bromide | 22.8 mmol, 5.0 g | C(C[C@@H](C)CCC=C(C)C)Br | C10H19Br
reactant | paraformaldehyde | 60.0 mmol, 1.80 g | C=O | CH2O
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(S)-methyl-8-methylnon-7-enyl alcohol | 3.25 g, 84% yield | C[C@H](CCCO)CCC=C(C)C | C11H22O
